US06358971B1
α-Bromo-(3-thienyl)acetic acid
The (thiophen-3-yl)mandelic acid (8.60 g, 54.4 mmol) was dissolved in 100 ml of 30% HBr in acetic acid. The solution was stirred for 18 hours at RT. The clear black solution was poured onto 2.5 L of ice water and immediately extracted with Et2O (4×400 ml). The ether was dried over Na2SO4 and treated with decolorizing carbon. The Et2O was evaporated and the residue was azeotroped with toluene to remove residual acetic acid. The crude solid product was recrystalized from hexanes to yield 9.07 g. (75.%). EA, MS(FD).

reactant | (thiophen-3-yl)mandelic acid | 54.4 mmol, 8.60 g | S1C=C(C=C1)C(C(=O)O)(O)C1=CC=CC=C1 | C12H10O3S
reactant | EA | CC(OCC)=O | C4H8O2
reactant | HBr | 100 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-Bromo-(3-thienyl)acetic acid | BrC(C(=O)O)C1=CSC=C1 | C6H5BrO2S
